US05484804
394 cm3 of a 5.2N solution of hydrochloric acid in dioxane are added to a solution of 51.2 g of (3aRS,5RS,7aRS)-5-acetoxy-7,7-diphenyl-2-vinyloxycarbonylperhydroisoindolin-4-one in 118 cm3 of dioxane at room temperature. The reaction mixture is stirred at this temperature for 1 hour and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized from 200 cm3 of boiling ethanol. 13.4 g of (3aRS,5RS,7aRS)-5-acetoxy-7,7-diphenylperhydroisoindol-4-one hydrochloride are obtained in the form of white crystals which melt at a temperature above 300° C.

reactant | hydrochloric acid | Cl | ClH
reactant | (3aRS,5RS,7aRS)-5-acetoxy-7,7-diphenyl-2-vinyloxycarbonylperhydroisoindolin-4-one | 51.2 g | C(C)(=O)OC1C(C2CN(CC2C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC=C)=O | C25H25NO5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 118 cm3 | O1CCOCC1 | C4H8O2
product | (3aRS,5RS,7aRS)-5-acetoxy-7,7-diphenylperhydroisoindol-4-one hydrochloride | 13.4 g | Cl.C(C)(=O)OC1C(C2CNCC2C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C22H23NO3.ClH/c1-15(24)26-20-12-22(16-8-4-2-5-9-16,17-10-6-3-7-11-17)19-14-23-13-18(19)21(20)25;/h2-11,18-20,23H,12-14H2,1H3;1H
